US06703387B2
A mixture of 10.45 g (38.1 mmol) of [2-(2-fluorophenyl)-2-oxoethyl]phosphonic acid diethyl ester and 14.1 g (190 mmol) N-methylethylenediamine in 100 ml of pyridine was heated at 95° C. for 18 hours. The solvent was evaporated and the residue was partitioned between 200 ml of water and 2×100 ml of dichloromethane. The combined organic portions were dried (magnesium sulphate), filtered and evaporated. The residue was purified by column chromatography eluting with 5% methanol/dichloromethane to give 3.14 g (26%) of (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester as a light brown oil; MS: m/e 311.0 [M+H]+.

reactant | [2-(2-fluorophenyl)-2-oxoethyl]phosphonic acid diethyl ester | 38.1 mmol, 10.45 g | C(C)OP(OCC)(=O)CC(=O)C1=C(C=CC=C1)F | C12H16FO4P
reactant | N-methylethylenediamine | 190 mmol, 14.1 g | CNCCN | C3H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | 3.14 g, 26% | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=CC=C2 | C15H23N2O3P
